US06300333B1
Preparation of the starting matererial 1-(tert-butoxycarbonyl)4-aminopiperidine
100.0 g (0.50 mol) of 1-tert-butoxycarbonyl-4-piperidone were subjected to reductive amination in 300 ml of ammonia-saturated methanol in the presence of 20.0 g of Raney nickel at 100° C. and a hydrogen pressure of 100 bar. After the catalyst had been removed by filtration, the mixture was concentrated. This gave 95.5 g of a brown oil (95.4% of theory).

reactant | 1-tert-butoxycarbonyl-4-piperidone | 0.50 mol, 100.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | hydrogen | [H][H] | H2
reactant | ammonia | 300 ml | N | H3N
catalyst | Raney nickel | 20.0 g | [Ni] | Ni
product | 1-(tert-butoxycarbonyl)4-aminopiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
